US06660744B1
A mixture of tert-butyl N-(4-bromo-2-chlorophenyl)carbamate (2.10 g, 0.00685 mol), diboron pinacol ester (2.09 g, 0.00822 mol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (0.17 g, 0.00021 mol) and potassium acetate (2.02 g, 0.02055 mol) in N,N-dimethylformamide (50 ml) was heated at 80° C. under a nitrogen atmosphere for 6 hours. The solvent was removed under reduced pressure. The residue was triturated with heptane (70 mL) and the resulting solids were removed by filtration through a pad of celite. The heptane was removed in vacuo to give tert-butyl N-[2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]carbamate as a grey solid (1.93 g, 0.00546 mol).

reactant | tert-butyl N-(4-bromo-2-chlorophenyl)carbamate | 0.00685 mol, 2.10 g | BrC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)Cl | C11H13BrClNO2
reactant | diboron pinacol ester | 0.00822 mol, 2.09 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.00021 mol, 0.17 g | ClCCl | CH2Cl2
reactant | potassium acetate | 0.02055 mol, 2.02 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | tert-butyl N-[2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]carbamate | 0.00546 mol, 1.93 g | ClC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC(OC(C)(C)C)=O | C17H25BClNO4
